* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU7044
*Vwesion:2
*CMOS OPAMP
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU7044 OUT1 -IN1 +IN1 V+ +IN2 -IN2 OUT2 
+ OUT3 -IN3 +IN3 V- +IN4 -IN4 OUT4
X_U1 +IN1 -IN1 V+ V- OUT1 NJU7044_s
X_U2 +IN2 -IN2 V+ V- OUT2 NJU7044_s
X_U3 +IN3 -IN3 V+ V- OUT3 NJU7044_s
X_U4 +IN4 -IN4 V+ V- OUT4 NJU7044_s
.ends NJU7044
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | | output
*                      | | | | |
.subckt NJU7044_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 21 4 {VRD}
VRD2 22 4 {VRD}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}

.MODEL DMOD1 D(T_MEASURED = 25 IS = 1.26E-31)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL = 1 VTO = -4.89E-01
+ KP = 4.01E-05 L = {L_VAL} W = {W_VAL} TOX = 1.30E-08 U0 = 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL = 1 VTO = -4.89E-01
+ KP = 4.01E-05 L = {L_VAL} W = {W_VAL} TOX = 1.30E-08 U0 = 1.51E+02)
*
.PARAM
+ C1   = 8.19E-11
+ C2   = 1.51E-10
+ CS   = 0.00E+00
+ GCM  = 9.93E-07
+ GA   = 9.93E-04
+ GB   = 8.85
+ GC   = 5897.6148
+ ITL  = 1.30E-04
+ RD1  = 1007.53
+ RD2  = 1007.53
+ RC   = 1.70E-04
+ RS1  = 754.61
+ RS2  = 754.61
+ RO1  = 39
+ RO2  = 36
+ RP   = 3.00E+04
+ VD   = 0.863789
+ VS   = 0.86372125
+ VOS  = 6.84859E-03
+ IDS  = 186.7E-6
+ VTL  = 1.80E-02
+ VRD  = 3.50E-01
+ L_VAL= 1.20E-06
+ W_VAL= 3.60E-03

.ends NJU7044_s
*$
